US09238640B2
To a solution of 2-amino-4,6-diisopropoxy-nicotinic acid (1.48 g, 5.83 mmol) in THF (30 mL) were added EDCl (1.34 g, 6.99 mmol), HOBt (0.94 g, 6.99 mmol), NMM (0.70 g, 6.99 mmol) and liquid NH3 (10 mL). Then, the reaction mixture was stirred at room temperature for 24 hours. Then, water (100 mL) was added and the products were extracted with ethyl acetate (2×200 mL). The combined organic phase was washed with water, then brine, and dried over anhydrous Na2SO4. Removal of solvent gave crude 2-amino-4,6-diisopropoxy-nicotinamide as a yellow oil. Yield: 450 mg (26%, crude).

reactant | 2-amino-4,6-diisopropoxy-nicotinic acid | 5.83 mmol, 1.48 g | NC1=C(C(=O)O)C(=CC(=N1)OC(C)C)OC(C)C | C12H18N2O4
reactant | EDCl | 6.99 mmol, 1.34 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 6.99 mmol, 0.94 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NMM | 6.99 mmol, 0.70 g | CN1CCOCC1 | C5H11NO
reactant | NH3 | 10 mL | N | H3N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 2-amino-4,6-diisopropoxy-nicotinamide | NC1=C(C(=O)N)C(=CC(=N1)OC(C)C)OC(C)C | C12H19N3O3
